US04816452
a. Ethyl (Z)-2-(2-methylpropyloxyimino)-2-(2-tritylaminothiazol-4-yl)acetate
Ethyl (Z)-2-(hydroxyimino)-2-(2-tritylaminothiazol-4-yl)acetate hydrochloride (1 g) was alkylated with 1-bromo-2-methylpropane (0.48 ml) as described in Example 5a to give the title compound (0.8 g), νmax (CHCl3) 3400, 2960, 1725, 1520 and 1025 cm-1 m; δH (CDCl3) 1.09 (6H, d, J 7 Hz), 1.30 (3H, t), 1.90 (1H, m), 3.95 (2H, d, J 7 Hz), 4.30 (2H, q), 6.42 (1H, s), 6.93 (1H, br.s), 7.22 (15H, m). [Mass spectrum: +ve ion (3NOBA) MH+ (514)].

reactant | Ethyl (Z)-2-(hydroxyimino)-2-(2-tritylaminothiazol-4-yl)acetate hydrochloride | 1 g | Cl.O\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-bromo-2-methylpropane | 0.48 ml | BrCC(C)C | C4H9Br
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | Ethyl (Z)-2-(2-methylpropyloxyimino)-2-(2-tritylaminothiazol-4-yl)acetate | 0.8 g | CC(CO\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C30H31N3O3S
